* Modelo SPICE para Capacitor Electrolítico 470uF 16V,
* Pin 1: Positivo (+),
* Pin 2: Negativo (-),
.SUBCKT CAP_ELEC_470U_16V 1 2
C1 1 3 470u
R_ESR 3 2 0.14
R_FUGA 1 2 50k
.ENDS