* Modelo SPICE para Capacitor No Polarizado 100nF
* Pines 1 y 2: Sin polaridad
.SUBCKT CAP_CER_100N 1 2
C1 1 3 100n
R_ESR 3 2 0.06
R_FUGA 1 2 100Meg
.ENDS